US07250442B2
1-(3-Bromo-phenyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (2.0 g, 3.32 mmol), 3-bromophenylboronic acid (1.33 g, 6.64 mmol), copper (II) acetate (0.603 g, 3.32 mmol), triethylamine (0.93 mL, 6.64 mmol), 4 angstrom molecular sieves, and dichloromethane (50 mL). Stir at room temperature overnight under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 70% dichloromethane in hexanes to obtain 1.08 grams. Dissolve some of the resulting compound (0.167 g, 0.83 mmol) in THF (4 mL). Add a solution of tetrabutylammonium fluoride (1.0 M) in THF (2.1 mL). Stir for 1 h. Quench with saturated aqueous ammonium chloride(10 mL), water (40 mL) and ethyl acetate (50 mL). Separate the layers and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with 25% to 50% ethyl acetate in hexanes to give 0.255 g (62%) of the title compound: mass spectrum (ion spray): m/z=529(M+1), 531(M+3); 1H NMR(DMSO-d6): δ8.24 (s, 2H), 7.70-7.65 (m, 2H), 7.64-7.46 (m, 2H), 7.31 (d, 1H), 7.25 (td, 1H), 7.12 (t, 1H), 6.84 (d, 1H), 6.73 (s, 4H), 2.07 (s,12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 3.32 mmol, 2.0 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | 3-bromophenylboronic acid | 6.64 mmol, 1.33 g | BrC=1C=C(C=CC1)B(O)O | C6H6BBrO2
reactant | triethylamine | 6.64 mmol, 0.93 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 2.1 mL | C1CCOC1 | C4H8O
catalyst | copper (II) acetate | 3.32 mmol, 0.603 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 1-(3-Bromo-phenyl)-3,3-bis-(4-hydroxy-3,5-dimethyl-phenyl)-1,3-dihydro-indol-2-one | 0.255 g, 62% | BrC=1C=C(C=CC1)N1C(C(C2=CC=CC=C12)(C1=CC(=C(C(=C1)C)O)C)C1=CC(=C(C(=C1)C)O)C)=O | C30H26BrNO3
